US06075034
1-Cyclodecyl-piperidin-4-one
To a solution of cyclodecylamine (6.78 g, 44 mmol) in ethanol (80 ml) was added a solution of potassium carbonate (0.60 g, 3.9 mmol) and 1-ethyl-1-methyl-4-oxo-piperidinium iodide (16.2 g, 60 mmol) in water (40 ml) and the mixture was refluxed for 100 min. The reaction mixture was poured into sat. NaHCO3 -solution (120 ml)/ice (400 ml) and extracted with ethylacetate (2×300 ml). The combined organic layers were dried (MgSO4) and evaporated. Column chromatography on silica gel (toluene/ethylacetate 2:1) yielded the title compound (8.8 g, 85%) as a pale brown oil, MS: m/e=238.4 (M+).

reactant | cyclodecylamine | 44 mmol, 6.78 g | C1(CCCCCCCCC1)N | C10H21N
reactant | potassium carbonate | 3.9 mmol, 0.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethyl-1-methyl-4-oxo-piperidinium iodide | 60 mmol, 16.2 g | [I-].C(C)[N+]1(CCC(CC1)=O)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 1-Cyclodecyl-piperidin-4-one | 8.8 g, 85% | C1(CCCCCCCCC1)N1CCC(CC1)=O | C15H27NO
